US05136056
3.59 kg of an α, β-zeranol mixture (55:45), acetonitrile with 0.5% water (80 l) and active charcoal (0.05 kg) were placed into a 150 l crystallizer. The mixture was refluxed for 30 min., warm filtered and the filtrate was refluxed again. The obtained clear solution was cooled adjusting the fall in temperature to about 8°-10° C./hour, under strong mechanic stirring, so as to obtain a controlled crystallization. Crystal withdrawals were carried out at 42° C., 36° C. and 30° C. on which crystals HPLC analysis was effected a described in Example 1: content in α-zeranol proved to be extremely constant (91.9%, 92.3% and 91.8%, respectively, at the above cited temperatures). Stirring was continued overnight and for 12 hours more at 30° C.; then the product was filtered and dried to obtain 1.40 kg (38.99%) of an α-zeranol with a 93.5% titre. This product was dissolved in 42 l of acetonitrile with 1% of water and crystallized following the same procedure as above. 1.01 kg of final product was obtained, with a 98.6% titre (HPLC), m.p.=181°-182° C., [α]D20 =46.2 (c=1.0; methanol).

reactant | β-zeranol | C1CC[C@@H](CCCCOC(=O)C2=C(C=C(C=C2CC1)O)O)O | C17H24O5
reactant | acetonitrile | C(C)#N | C2H3N
reactant | charcoal | 0.05 kg | C | CH4
solvent | water | 80 l | O | H2O
product | α-zeranol | 1.40 kg, 38.99% | C[C@H]1CCC[C@@H](CCCCCC2=CC(=CC(=C2C(=O)O1)O)O)O | C18H26O5
